US05610292
2,2'-O-cyclocytidine hydrochloride (6.5 g) was dissolved in 35 mL water at 80° C. The solution was cooled to room temperature and t-butylarnine (2.8 g) was added and the mixture stirred for 2 hours. Thereafter, the solvent was evaporated under vacuum and ethanol (16 g) was added. The mixture was stirred at room temperature for 12 hours. Filtration of the resulting precipitation yielded 5 g of pure cytarabine after drying, which corresponds to a yield of 83%. The product was characterized by comparison of its melting point, and NMR and IR spectra with those previously reported for cytarabine.

reactant | 2,2'-O-cyclocytidine hydrochloride | 6.5 g | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=N.Cl
reactant | t-butylarnine | 2.8 g | C(C)(C)(C)N | C4H11N
reactant | water | 35 mL | O | H2O
product | cytarabine | 5 g, yield of 83% | C1=CN(C(=O)N=C1N)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H13N3O5
